US07541466B2
Step 1) Preparation of N-(4-Aminophenyl)-N-hexylacetamide
To a stirred solution of 4′-aminoacetanilide (1.00 g, 6.66 mmol) in N,N-dimethylformamide (10 mL) was added sodium hydride (60% dispersion in mineral oil; 0.28 g, 7.0 mmol). After 5-10 minutes, 1-bromohexane was added dropwise to the mixture. The reaction was stirred for one hour and then partitioned between ethyl acetate and water. The organic layer was washed with additional water, dried (sodium sulfate) and concentrated. The resulting brown oil was purified by flash chromatography over silica (methylene chloride/methanol) to afford 1.32 g (84%) of product as a viscous amber oil: 1H NMR (CDCl3) δ 6.91 (d, J=8.7 Hz, 1H), 6.68 (d, J=8.7Hz, 1H), 3.78 (br s, 2H), 3.61 (t, J=7.9Hz, 2H), 1.81 (s, 3H), 1.33-1.18 (m, 2H), 1.17-1.08 (m, 6H), 0.85 (t, J=6.9 Hz, 3H) ppm.

reactant | 4′-aminoacetanilide | 6.66 mmol, 1.00 g | NC1=CC=C(NC(C)=O)C=C1 | C8H10N2O
reactant | sodium hydride | 7.0 mmol, 0.28 g | [H-].[Na+]
reactant | 1-bromohexane | BrCCCCCC | C6H13Br
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-(4-Aminophenyl)-N-hexylacetamide | 1.32 g, 84% | NC1=CC=C(C=C1)N(C(C)=O)CCCCCC | C14H22N2O
